US07534914B2
STEP 1. Methyl 5-chloro-2-[(3-fluorophenoxy)methyl]benzoate
The title compound was prepared according to the procedure described in step 1 of Example 1 from methyl 2-(bromoethyl)-5-chlorobenzoate and 3-fluorophenol:

reactant | methyl 2-(bromoethyl)-5-chlorobenzoate | BrCCC1=C(C(=O)OC)C=C(C=C1)Cl | C10H10BrClO2
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | Methyl 5-chloro-2-[(3-fluorophenoxy)methyl]benzoate | ClC=1C=CC(=C(C(=O)OC)C1)COC1=CC(=CC=C1)F | C15H12ClFO3
